US04855292
1-Cyclopropyl-7-(4-oxo-1-piperidyl)-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.25 g) is dissolved in 1% aqueous sodium hydroxide (28 ml), and thereto is added sodium boron hydroxide (0.1 g) at room temperature. The mixture is stirred at the same temperature for 30 minutes, and the resulting mixture is poured into ice water and then acidified with conc. sulfuric acid. The mixture is extracted with dichloromethane, and the solvent is distilled off. The resulting residue is crystallized by adding thereto ethyl acetate, and then recrystallized from chloroform-methanol to give 1-cyclopropyl-7-(4-hydroxy-1-piperidyl)-6-fluoro-8-methyl-1,4dihydro-4-oxoquinoline-3-carboxylic acid (0.16 g), as pale yellow crystals, m.p. 234°-236° C.

reactant | 1-Cyclopropyl-7-(4-oxo-1-piperidyl)-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.25 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C)N1CCC(CC1)=O)F)=O)C(=O)O | C19H19FN2O4
reactant | sodium boron hydroxide | 0.1 g | [OH-].[B+3].[Na+].[OH-].[OH-].[OH-]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | sodium hydroxide | 28 ml | [OH-].[Na+]
product | 1-cyclopropyl-7-(4-hydroxy-1-piperidyl)-6-fluoro-8-methyl-1,4dihydro-4-oxoquinoline-3-carboxylic acid | 0.16 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C)N1CCC(CC1)O)F)=O)C(=O)O | C19H21FN2O4
